US04797417
To a solution of 3-(4-hydroxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)propionic acid (80 g) in ethanol (3.2 () was added dropwise conc. sulfuric acid (160 ml) over a period of 0.5 hour and the mixture was stirred for 2.5 hours at ambient temperature. Evaporation of ethanol gave a residue which was poured into ice-cold water (2.4 () and extracted with chloroform. The extract was washed with water and brine successively and evaporated to dryness to give ethyl 3-(4-hydroxy-5-oxo-3-phenyl2,5-dihydro-2-furyl)propionate which was recrystallized from diisopropyl ether (87.05 g).

reactant | 3-(4-hydroxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)propionic acid | 80 g | OC1=C(C(OC1=O)CCC(=O)O)C1=CC=CC=C1 | C13H12O5
reactant | sulfuric acid | 160 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | ethyl 3-(4-hydroxy-5-oxo-3-phenyl2,5-dihydro-2-furyl)propionate | OC1=C(C(OC1=O)CCC(=O)OCC)C1=CC=CC=C1 | C15H16O5
